US06713474B2
A mixture of 4-bromoguaiacol (2.23 g, 11 mmol), phenyl boronic acid (4.03 g, 33 mmol), copper(II) acetate (2.18 g, 12 mmol) and 4A powdered molecular sieves (20 g) in dichloromethane (100 mL) was treated with triethylamine (5.5 g, 55 mmol) then stirred at ambient temperature for 20 hours. The mixture was filtered, concentrated under reduced pressure and purified by flash chromatography on silica gel using heptane/ethyl acetate (75:25) as an eluent to give 4-bromo-2-methoxy-1-phenoxybenzene (350 mg, 12%): 1H NMR (DMSO-d6, 400 MHz) δ 7.3-7.4(m, 3H), 7.15(d, 1H), 7.05(t, 1H), 6.98(d, 1H), 6.85 (d, 2H), 3.77(s, 3H); RP-HPLC (Hypersil HS, 5 μm, 100 A, 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 13.12 min.

reactant | 4-bromoguaiacol | 11 mmol, 2.23 g | BrC=1C=C(C(=CC1)OC)O | C7H7BrO2
reactant | phenyl boronic acid | 33 mmol, 4.03 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 55 mmol, 5.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 12 mmol, 2.18 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-bromo-2-methoxy-1-phenoxybenzene | 350 mg, 12% | BrC1=CC(=C(C=C1)OC1=CC=CC=C1)OC | C13H11BrO2
